US06964979B2
5-Bromo-4-fluoro-2-methylphenylhydrazine Hydrochloride
To a suspension of 5-bromo-4-fluoro-2-methylaniline (11.2 g, 54.9 mmol) in concentrated HCl (35 mL) was added dropwise a solution of sodium nitrite (4.17 g, 60.4 mmol) in water (20 mL) over 30 minutes at 0° C. To the mixture was added dropwise a solution of SnCl2.2H2O (37.2 g, 165 mmol) in concentrated HCl (45 mL) over 1 hour. After stirring for 2 hours at 0° C., the reaction mixture was basified with 50% NaOH (50 mL). The mixture was further diluted with water (50 mL) and treated with another 50% NaOH (20 mL) and then crushed ice (200 g). The reaction mixture was extracted with ether (3×200 mL) and the combined organic phases were washed with brine, dried over Na2SO4, and filtered. The filtrate was acidified by adding an anhydrous solution of HCl in ether (2 N in ether, 42 mL, 82.5 mmol). The precipitate was collected and dried under reduced pressure to give 9.92 g (71%) of title compound as a pale yellow solid. 1H NMR (DMSO): 300 MHz δ 10.18 (bs, 3H), 7.98 (bs, 1H), 7.21 (m, 2H), 2.16 (s, 3H).

reactant | 5-bromo-4-fluoro-2-methylaniline | 54.9 mmol, 11.2 g | BrC=1C(=CC(=C(N)C1)C)F | C7H7BrFN
reactant | sodium nitrite | 60.4 mmol, 4.17 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 165 mmol, 37.2 g | O.O.Cl[Sn]Cl
reactant | NaOH | 50 mL | [OH-].[Na+]
reactant | NaOH | 20 mL | [OH-].[Na+]
reactant | ether | 82.5 mmol, 2 N, 42 mL | CCOCC | C4H10O
solvent | HCl | 35 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | HCl | 45 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 5-Bromo-4-fluoro-2-methylphenylhydrazine Hydrochloride | 9.92 g, 71% | Cl.BrC=1C(=CC(=C(C1)NN)C)F | InChI=1S/C7H8BrFN2.ClH/c1-4-2-6(9)5(8)3-7(4)11-10;/h2-3,11H,10H2,1H3;1H
